US04452809
Cis-4-phenoxy-1-phenylmethyl-3-pyrrolidinol
A slurry of 2.4 g. (0.1 mole) of sodium hydride (4.2 g. of 57% oil dispersion, washed with ether to remove the oil) in 30 ml. of dimethylformamide was stirred while a solution of 19.3 g. (0.1 mole) of 1-benzyl-3,4-dihydroxypyrrolidine, cis isomer, (I) in 30 ml. of dimethylformamide was added dropwise. The mixture was heated at 50° C. for 1 hr., then a solution of 19.2 g. (0.2 mole) of fluorobenzene in 30 ml. of dimethylformamide was added in one portion. The mixture was heated at 90° C. for 18 hr., then cooled and concentrated under vacuum. The residue was dissolved in benzene and washed with water. The semicrystalline residue from the concentrated organic fraction was dissolved in cyclohexane and the solution was decanted from an insoluble oil (mostly I). The cyclohexane solution was treated with charcoal to remove residual I and then crystallized as fluffy, off-white needles (m.p. 88.5°-90° d.) which weighed 1.2 g. (4.5%).

reactant | sodium hydride | 0.1 mole | [H-].[Na+]
reactant | 1-benzyl-3,4-dihydroxypyrrolidine | 0.1 mole | C(C1=CC=CC=C1)N1CC(C(C1)O)O | C11H15NO2
reactant | fluorobenzene | 0.2 mole | FC1=CC=CC=C1 | C6H5F
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Cis-4-phenoxy-1-phenylmethyl-3-pyrrolidinol | O(C1=CC=CC=C1)[C@@H]1[C@@H](CN(C1)CC1=CC=CC=C1)O | C17H19NO2
